US06162791
To an ice-cooled solution of N-(3-methoxy-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline methyl ester (0.68 g, 1.91 mmol) in methanol (10 mL) was added a solution of 1N sodium hydroxide (2.4 mL, 2.4 mmol). The resulting mixture was stirred in ice for 3 h, then at room temperature for 16 h. Volatile materials were removed in vacuo and the residue was dissolved in water (10 mL) and washed with ethyl acetate. The aqueous layer was collected and acidified with 1N HCl solution (pH ca. 5.6) as a voluminous white precipitate separated. The mixture was extracted into ethyl acetate (6×25 mL), and the combined organic layers was dried (sodium sulfate), filtered and concentrated to a light yellow foam. Trituration with diethyl ether gave N-(3-methoxy-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline as a white solid (0.58 g, 89%). M.p. foamed at 78° C. and melted at 89.0-92.0C.; 1H-NMR (CDCl3) δ7.65 (br. s, 1H, NHCH), 4.70 (br. t, 1H, NHCH), 4.49 (t, J=5.3 Hz, 1H, CHCO2), 3.97 (s, 3H, OMe), 3.56-3.58 (m, 2H), 2.03-2.21 (m, 3H), 1.60-1.76 (m, 3H), 0.76-0.99 (m, 1H), 0.99 (d, J=6.5 Hz, 3H, Me), 0.96 (d, J=6.2 Hz, 3H, Me); MS (m/z) 343 (M+ +1), 228, 200, 102, 83.

reactant | N-(3-methoxy-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline methyl ester | 1.91 mmol, 0.68 g | COC([C@H]1N(CCC1)C([C@@H](NC1=NC(=NS1)OC)CC(C)C)=O)=O | C15H24N4O4S
reactant | sodium hydroxide | 2.4 mmol, 1N, 2.4 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-(3-methoxy-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline | 0.58 g, 89% | COC1=NSC(=N1)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)O)CCC1 | C14H22N4O4S
